US05409943
(a) 2-Amino-3-(2,4,6-trimethylbenzyloxy)pyridine
A mixture of 2,4,6-trimethylbenzyl chloride (50 g, 0.296 mol) and 2-amino-3hydroxypyridine (29.6 g, 0.269 mol) in 40% aqueous sodium hydroxide solution (200 ml) and dichloromethane (200 ml) was treated with Adogen 464 (5 ml) and stirred vigorously at room temperature for 16 hours. The product was extracted into dichloromethane and purified by flash chromatography (silica, chloroform) to yield a solid (10.1 g, 14%), m.p. 160°-166° C.

reactant | 2,4,6-trimethylbenzyl chloride | 0.296 mol, 50 g | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
reactant | 2-amino-3hydroxypyridine | 0.269 mol, 29.6 g | NC1=NC=CC=C1O | C5H6N2O
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | Adogen 464 | 5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-Amino-3-(2,4,6-trimethylbenzyloxy)pyridine | 10.1 g, 14% | NC1=NC=CC=C1OCC1=C(C=C(C=C1C)C)C | C15H18N2O
